US04001420
A solution of 53 g (0.2 mol) of 2-hydroxy-5-(α-bromoacetyl) benzoic acid in 250 ml of slightly warm ethanol was dropped, for 15 minutes, in a solution of 15 g (0.2 mol) of thioacetamide in 60 ml of ethanol, while stirring vigorously. The reaction was slightly exothermic, and a white product gradually precipitated. Stirring was maintained for one hour, then the reaction mixture was diluted with 500 ml of water. The precipitate was filtered off, washed with water and the product was recrystallized from ethanol. 40.6 g of 2-hydroxy 5-(2-methyl thiazol-4-yl) benzoic acid, M.P. (K.B.) 250°-253° C, were obtained (yield 83%). A second yield of product was obtained by concentration of the ethanolic mother liquors. 3.1 g (0.0425 mol) of diethylamine was added to a suspension of 10 g (0.0425 mol) of the acid prepared above in 50 ml of ethanol. The mixture was stirred for 30 minutes then concentrated to dryness. The residue was recrystallized from benzene. 10.3 g of diethylammonium 2-hydroxy-5-(2-methyl thiazol-4-yl) benzoate are obtained, M.P. (M.K.) 128°-132° C with progressive recrystallization and second M.P. 249°-250° C (yield 78 %).

reactant | 2-hydroxy-5-(α-bromoacetyl) benzoic acid | 0.2 mol, 53 g | OC1=C(C(=O)O)C=C(C=C1)C(CBr)=O | C9H7BrO4
reactant | thioacetamide | 0.2 mol, 15 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-hydroxy 5-(2-methyl thiazol-4-yl) benzoic acid | 40.6 g, yield 83% | OC1=C(C(=O)O)C=C(C=C1)C=1N=C(SC1)C | C11H9NO3S
